US03936470
A mixture of 6 parts of 2-bromo-2', 4'-dichloroacetophenone, 6 parts of 3-(4-chloro-o-tolyloxy)-1,2-propanediol, 3 parts of p-toluenesulfonic acid, 80 parts of n-butanol and 180 parts of benzene is stirred and refluxed for 24 hours with water-separator. The solvent is removed in vacuo and the residue is triturated in methanol. The product is filtered off and crystallized from petroleumether, yielding A +B 2-(bromomethyl)-4-(4-chloro-2-tolyloxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane.

reactant | 2-bromo-2', 4'-dichloroacetophenone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | 3-(4-chloro-o-tolyloxy)-1,2-propanediol | ClC1=CC(=C(C=C1)C)OCC(CO)O | C10H13ClO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(bromomethyl)-4-(4-chloro-2-tolyloxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=C(C=CC(=C1)Cl)C)C1=C(C=C(C=C1)Cl)Cl | C18H16BrCl3O3
